US05147645
Ethyl 2-ethoxy-3-methylbenzoate:
at room temperature, a solution of 100.3 g of 2-hydroxy-3-methylbenzoic acid in 150 ml of DMF/THF (dimethylformamide/tetrahydrofuran, 1:1) is dripped into 43.6 g of sodium hydride (80% strength in white oil) in 350 ml of DMF/THF (1:1). The mixture is stirred for 40 minutes at 60° C. and then 226.5 g of ethyl iodide is dripped in at room temperature. After the addition of a further 250 ml of DMF/THF (1:1) the mixture is stirred for 9 hours at 60°-70° C. The reaction mixture is poured into ice water and extracted with ether. The combined organic phases are washed with water, dried and concentrated. There is obtained 126.3 g of the desired compound.

reactant | 2-hydroxy-3-methylbenzoic acid | 100.3 g | OC1=C(C(=O)O)C=CC=C1C | C8H8O3
reactant | sodium hydride | 43.6 g | [H-].[Na+]
reactant | ethyl iodide | 226.5 g | C(C)I | C2H5I
reactant | DMF THF | 150 ml | CN(C)C=O.C1CCOC1
reactant | DMF THF | 350 ml | CN(C)C=O.C1CCOC1
reactant | DMF THF | 250 ml | CN(C)C=O.C1CCOC1
product | Ethyl 2-ethoxy-3-methylbenzoate | 126.3 g | C(C)OC1=C(C(=O)OCC)C=CC=C1C | C12H16O3
